US06498251B1
Synthesis Example 45a (The Inventive Intermediate) 2-t-Butoxycarbonyl-9-allyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole
Anhydrous DMF solution (10 ml) of 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (4.40 g, 16.2 mmol) was mixed with 60% sodium hydride (700 mg, 10 mmol) and stirred at roam temperature for 1 hour. The reaction solution was cooled to −60° C., mixed with allyl bromide (2.18 g, 18 mmol) and then returned to room temperature by further stirring for 1 hour. The reaction solution was mixed with ethyl acetate (150 ml), washed with water and dried with anhydrous sodium sulfate, and then the solvent was removed by evaporation under a reduced pressure. The thus obtained residue was purified by a silica gel chromatography to obtain 4.32 g of the title compound as an oil (13.8 mmol, 87% in yield).

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 16.2 mmol, 4.40 g | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
reactant | sodium hydride | 10 mmol, 700 mg | [H-].[Na+]
reactant | allyl bromide | 18 mmol, 2.18 g | C(C=C)Br | C3H5Br
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-t-Butoxycarbonyl-9-allyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 13.8 mmol, 4.32 g, 87% | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC=C | C19H24N2O2
